US07282610B2
In a typical example of a specific production method, ferric chloride hexahydrate and an activated carbon are added to a 2-propanol solution of 5-tert-butyl-2-(2-ethylhexylthio)nitrobenzene, and the mixture is refluxed under heating for 10 minutes. To this solution is added, dropwise, an aqueous 80% solution of hydrazine monohydrate. After the addition is finished, the reaction is continued under refluxing until the raw material disappears. Then, the reaction solution is cooled, and the catalyst and the activated carbon are separated by filtration. Toluene is added to the filtrate, and the toluene solution is then washed with water, washed with an acid, neutralized, washed with water, and then concentrated, to obtain 5-tert-butyl-2-(2-ethylhexylthio)aniline.

reactant | 5-tert-butyl-2-(2-ethylhexylthio)nitrobenzene | C(C)(C)(C)C=1C=CC(=C(C1)[N+](=O)[O-])SCC(CCCC)CC | C18H29NO2S
reactant | hydrazine monohydrate | O.NN
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-tert-butyl-2-(2-ethylhexylthio)aniline | C(C)(C)(C)C=1C=CC(=C(N)C1)SCC(CCCC)CC | C18H31NS
